US08633173B2
164 c) (2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonylmethyl-phenyl)-amine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (500.0 mg, 2.151 mmol) and 2-methanesulfonylmethyl-phenylamine (440.0 mg, 2.375 mmol) in a manner analogous to Example 2d. Product isolated as a tan solid (0.62 g, 51%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.02 (d, J=5.9 Hz, 1H), 7.71 (s, 1H), 7.53 (d, J=8.3 Hz, 1H), 7.47-7.41 (m, 3H), 6.89-6.81 (m, 2H), 4.41 (s, 2H), 2.93 (s, 3H). MS=337, 339 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 2.151 mmol, 500.0 mg | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 2-methanesulfonylmethyl-phenylamine | 2.375 mmol, 440.0 mg | CS(=O)(=O)CC1=C(C=CC=C1)N | C8H11NO2S
product | (2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonylmethyl-phenyl)-amine | ClC1=NN2C(C(=CC=C2)NC2=C(C=CC=C2)CS(=O)(=O)C)=N1 | C14H13ClN4O2S
